US09120747B2
1-Hydroxy-1H-1,2,3-triazole-4-carboxylic Acid
1-Hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (2.0 g, 13 mmol) and EtOH (25 mL) were combined with a pre-dissolved solution of lithium hydroxide monohydrate (1.6 g, 38.2 mmol) and water (10 mL), and stirred at room temperature for 4 hours. The mixture was partially concentrated and acidified with HCl to cause precipitation. The solid was filtered and dried under vacuum to yield the title compound (1.3 g).

reactant | 1-Hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 13 mmol, 2.0 g | C(C)OC(=O)C=1N=NN(C1)O | C5H7N3O3
reactant | EtOH | 25 mL | CCO | C2H6O
reactant | lithium hydroxide monohydrate | 38.2 mmol, 1.6 g | O.[OH-].[Li+]
solvent | water | 10 mL | O | H2O
product | 1-Hydroxy-1H-1,2,3-triazole-4-carboxylic Acid | 1.3 g | ON1N=NC(=C1)C(=O)O | C3H3N3O3
